US06649611B2
N-(5-Chloro-2-(2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy)-benzyl)-2-diethylamino-acetamide
To a solution of N,N-dimethylglycine (0.014 g, 0.13 mmol) and (2R,5S)-2-(2-aminomethyl-4-chloro-phenoxy)-1-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-ethanone (0.063 g, 0.15 mmol) in dichloromethane (2 mL) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (0.034 g, 0.18 mmol), 1-hydroxybenzotriazole (0.021 g, 0.15 mmol), and triethylamine (0.036 mL, 0.36 mmol). After the reaction was stirred for 48 hours, the solution was diluted with saturated aqueous sodium bicarbonate and extracted with dichloromethane (3×). The combined organics were dried over magnesium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel gave the title compound (0.063 g, 80%).

reactant | N,N-dimethylglycine | 0.13 mmol, 0.014 g | CN(CC(=O)O)C | C4H9NO2
reactant | (2R,5S)-2-(2-aminomethyl-4-chloro-phenoxy)-1-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.15 mmol, 0.063 g | NCC1=C(OCC(=O)N2[C@@H](CN([C@H](C2)C)CC2=CC=C(C=C2)F)C)C=CC(=C1)Cl | C22H27ClFN3O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.18 mmol, 0.034 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 0.15 mmol, 0.021 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.36 mmol, 0.036 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-(5-Chloro-2-(2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy)-benzyl)-2-diethylamino-acetamide | 0.063 g, 80% | ClC=1C=CC(=C(CNC(CN(CC)CC)=O)C1)OCC(=O)N1C(CN(C(C1)C)CC1=CC=C(C=C1)F)C | C28H38ClFN4O3
